US06180635B2
b) Ethyl 2-(2-methylpropylamino)-5-(phenylmethyl)thiophene-3-carboxylate
Sodium borohydride (3.0 g) was added in 6 portions over 3 hours to a stirred solution of ethyl 2-amino-5-(phenylmethyl)thiophene-3-carboxylate in 2-methylpropanoic acid under nitrogen. The mixture was stirred at room temperature for 20 hours and was then diluted with water, neutralized with sodium bicarbonate and extracted with ethyl acetate four times. The organic extracts were dried over anhydrous magnesium sulfate, filtered and evaporated under reduced pressure. The residue was purified by column chromatography, eluting with diethyl ether:isohexane (1:19) to give the subtitle compound (2.80 g).

reactant | Sodium borohydride | 3.0 g | [BH4-].[Na+]
reactant | ethyl 2-amino-5-(phenylmethyl)thiophene-3-carboxylate | NC=1SC(=CC1C(=O)OCC)CC1=CC=CC=C1 | C14H15NO2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 2-methylpropanoic acid | CC(C(=O)O)C | C4H8O2
solvent | water | O | H2O
product | Ethyl 2-(2-methylpropylamino)-5-(phenylmethyl)thiophene-3-carboxylate | 2.80 g | CC(CNC=1SC(=CC1C(=O)OCC)CC1=CC=CC=C1)C | C18H23NO2S
